US04396624
33.8 g (0.2 mol) of 1,1-dichloro-3,3-dimethyl-butan-2-one, 26 g (0.2 mol) of 6-chloro-2-hydroxy-pyridine, 21 g (0.3 mol) of 1,2,4-triazole and 56 g (0.4 mol) of potassium carbonate were heated under reflux in 250 ml of acetone for 12 hours, while stirring. Thereafter, the mixture was allowed to cool, the salt which had precipitated was filtered off and the filtrate was concentrated in vacuo. Isopropanol was added to the oily residue, it being possible to isolate successively three crystal fractions. The first two contained mainly 1,1-bis-(1,2,4-triazol-1-yl)-3,3-dimethylbutan-2-one of melting point 157°-158° C. and 1,1-bis-(6-chloropyridin-2-yl-oxy)-3,3-dimethyl-butan-2-one of melting point 102°-104° C. 4 g of 1-(6-chloropyridin-2-yl-oxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one of melting point 102° C. were obtained from the third fraction.

reactant | 1,1-dichloro-3,3-dimethyl-butan-2-one | 0.2 mol, 33.8 g | ClC(C(C(C)(C)C)=O)Cl | C6H10Cl2O
reactant | 6-chloro-2-hydroxy-pyridine | 0.2 mol, 26 g | ClC1=CC=CC(=N1)O | C5H4ClNO
reactant | 1,2,4-triazole | 0.3 mol, 21 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.4 mol, 56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1-bis-(1,2,4-triazol-1-yl)-3,3-dimethylbutan-2-one | N1(N=CN=C1)C(C(C(C)(C)C)=O)N1N=CN=C1 | C10H14N6O
reactant | 1,1-bis-(6-chloropyridin-2-yl-oxy)-3,3-dimethyl-butan-2-one | ClC1=CC=CC(=N1)OC(C(C(C)(C)C)=O)OC1=NC(=CC=C1)Cl | C16H16Cl2N2O3
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-(6-chloropyridin-2-yl-oxy)-3,3-dimethyl-1-(1,2,4-triazol-1-yl)-butan-2-one | 4 g | ClC1=CC=CC(=N1)OC(C(C(C)(C)C)=O)N1N=CN=C1 | C13H15ClN4O2
